US09238639B2
C) Methyl 4-((3-hydroxy-2,5-dimethylphenyl)sulfanyl)-3-oxobutanoate
To a mixture of 2,5-dimethyl-3-sulfanylphenol (126 mg) and DMF (dry) (8.0 mL) were added K2CO3 (124 mg) and methyl 4-chloro-3-oxobutanoate (0.096 mL) at 0° C. The mixture was stirred at 0° C. for 3 h. The mixture was quenched with water at 0° C. and extracted with EtOAc. The organic layer was washed successively with water and brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (179 mg).

reactant | 2,5-dimethyl-3-sulfanylphenol | 126 mg | CC1=C(C=C(C=C1S)C)O | C8H10OS
reactant | K2CO3 | 124 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl 4-chloro-3-oxobutanoate | 0.096 mL | ClCC(CC(=O)OC)=O | C5H7ClO3
solvent | DMF | 8.0 mL | CN(C)C=O | C3H7NO
product | Methyl 4-((3-hydroxy-2,5-dimethylphenyl)sulfanyl)-3-oxobutanoate | 179 mg | OC=1C(=C(C=C(C1)C)SCC(CC(=O)OC)=O)C | C13H16O4S
